US06177419B1
25) Preparation of 3-Hexyl-2-hydroxyphenylboronic acid
2-(2-Hexylphenoxy)tetrahydropyran (1.162 g, 4.43 mmol) was dissolved in dry THF (20 ml) and the solution cooled to 0° C. n-Butyl lithium (1.6M in hexanes, 4.15 ml, 6.64 mmol) was added dropwise with stirring over 10 minutes. The ice-bath was removed and the reaction stirred at room temperature overnight. Triisopropoxy borane (1.43 ml, 6.2 mmol) was added and stirring continued for 24 hours. The reaction was quenched with water, acidified to pH 1 with 2N hydrochloric acid and extracted with ether (20 ml). The combined organic extracts were washed with 2N hydrochloric acid (50 ml), dried with sodium sulphate and concentrated under vacuum. The oily solid produced was dissolved in ether (30 ml) and stirred with 2N hydrochloric acid (15 ml) for 1 hour. The organic phase was separated, dried with sodium sulphate and concentrated under vacuum. The residue was triturated with cyclohexane and the solid filtered off to give the title compound (260 mg, 26%); MS 221 (M-H)−.

reactant | 2-(2-Hexylphenoxy)tetrahydropyran | 4.43 mmol, 1.162 g | C(CCCCC)C1=C(OC2OCCCC2)C=CC=C1 | C17H26O2
reactant | n-Butyl lithium | 6.64 mmol, 1.6M, 4.15 ml | C(CCC)[Li]
reactant | Triisopropoxy borane | 6.2 mmol, 1.43 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 3-Hexyl-2-hydroxyphenylboronic acid | 260 mg, 26% | C(CCCCC)C=1C(=C(C=CC1)B(O)O)O | C12H19BO3
